US07713972B2
(R)-(Acetylamino)(cyclohexyl)acetic acid
To a solution of 15 g of (R)-(acetylamino) (1,4-cyclohexadiene-1-yl)acetic acid in 500 mL of methanol was added 500 mg of platinum oxide, and the mixture was stirred for 4 hours under hydrogen gas atmosphere. Then, the reaction mixture was filtrated and the filtrate was condensed. The residue was recrystallized from ethanol to give 11.4 g (75%) of the title compound.

reactant | (R)-(acetylamino) (1,4-cyclohexadiene-1-yl)acetic acid | 15 g | C(C)(=O)N[C@@H](C(=O)O)C1=CCC=CC1 | C10H13NO3
solvent | methanol | 500 mL | CO | CH4O
catalyst | platinum oxide | 500 mg | [Pt]=O
product | (R)-(Acetylamino)(cyclohexyl)acetic acid | 11.4 g, 75% | C(C)(=O)N[C@@H](C(=O)O)C1CCCCC1 | C10H17NO3
